US06022906
23b 2-[4-(2-Mercapto-ethyl)-piperidin-1-yl]-2-methyl-1-[4-(methylthio)-phenyl]-propan-1-one
9.81 g (30.5 mmol) of 2-[4-(2-hydroxy-ethyl)-piperidin-1-yl]-2-methyl-1-[4-(methylthio)-phenyl]-propan-1-one and 8.0 g of triphenylphosphine are dissolved in 100 ml of methylene chloride. 10.1 g of carbon tetrabromide is dissolved in 50 ml of methylene chloride and is added dropwise to the above solution at 5 ° C. After stirring for 1 h, the resulting solution is concentrated to give a slurry, this material is purified by column chromatography on silica gel with ethyl acetate-hexane (10:90) as an eluent, and an oily product is obtained. The resulting material is used for the next reaction. 13.0 g of the above oily product are dissolved in 100 ml of dried dimethylacetamide and 4.56 g of potassium thioacetate are added. After stirring for 2.5 h at 50° C., the reaction mixture is poured into ice-water and extracted with ethyl acetate. The combined organic layers are washed with saturated sodium chloride solution and dried over MgSO4. The solvent is removed by evaporator and the crude oil is further purified by column chromatography on silica gel with ethyl acetate-hexane (10:90) as an eluent, and an oily product is obtained. The product is dissolved in 40 ml of ethanol and the solution is bubbled by nitrogen for 10 min. to remove oxygen. To the solution are added 10 ml of 2N sodium hydroxide solution and stirred at 0° C. for 1 h. After the reaction mixture is neutralized by adding 2N hydrochloric acid solution, the resulting solution is poured into 10 ml of water and extracted with ethyl acetate. The organic layer is washed with water and saturated sodium chloride solution, and dried over MgSO4. After ethyl acetate is distilled off, the residue is purified by means of column chromatography on silica gel with ethyl acetate-hexane (5-95) as an eluent, and an oily product is obtained. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm] 1.16 (m, 2H), 1.28 (s, 6H), 1.31 (t, 1H), 1.42 (m, 1H), 1.56 (q, 2H), 1.63 (d, 2H), 2.24 (t, 2H), 2.52 (s, 3H), 2.53 (m, 2H), 2.79 (d, 2H), 7.21 (d, 2H), 8.53 (d, 2H).

reactant | 2-[4-(2-hydroxy-ethyl)-piperidin-1-yl]-2-methyl-1-[4-(methylthio)-phenyl]-propan-1-one | 30.5 mmol, 9.81 g | OCCC1CCN(CC1)C(C(=O)C1=CC=C(C=C1)SC)(C)C | C18H27NO2S
reactant | triphenylphosphine | 8.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 10.1 g | C(Br)(Br)(Br)Br | CBr4
reactant | potassium thioacetate | 4.56 g | C(C)(=S)[O-].[K+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-[4-(2-Mercapto-ethyl)-piperidin-1-yl]-2-methyl-1-[4-(methylthio)-phenyl]-propan-1-one | SCCC1CCN(CC1)C(C(=O)C1=CC=C(C=C1)SC)(C)C | C18H27NOS2
